US08084442B2
3(S)-[(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester (3 g, 9.5 mmol), 1-bromo-3-chloropropane (4.7 ml, 48 mmol) and potassium carbonate (1.97 g, 14.3 mmol) were suspended in N-methylpyrrolidone (NMP, 15 ml), followed by stirring at 100° C. for 8 hours. After cooling to room temperature, water was added to the reaction solution, and extraction with ethyl acetate was conducted. After drying the organic layer over sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1), and the purified product was concentrated under reduced pressure to thereby obtain 1.0 g of oily colorless 3(S)-[(3-chloro-4-fluorophenyl)-(3-chloropropyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 3(S)-[(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester | 9.5 mmol, 3 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=CC(=C(C=C1)F)Cl | C15H20ClFN2O2
reactant | 1-bromo-3-chloropropane | 48 mmol, 4.7 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 14.3 mmol, 1.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3(S)-[(3-chloro-4-fluorophenyl)-(3-chloropropyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N(CCCCl)C1=CC(=C(C=C1)F)Cl | C18H25Cl2FN2O2
